US06437124B1
Potassium t-butoxide (Aldrich, 95%, 39.0 g) was added to a solution of tetraethylene glycol (Aldrich, 412.7 g) and methyl hexaethylene glycol chloride from above (95.8 g) at 18° C. over a 25 min period (ice/acetone bath). The reaction mixture was then stirred at 120° C. overnight. The pH was adjusted to 7 by the addition of hydrochloric acid (12 N, 11.7 ml), and volatiles were removed (64 Pa (0.48 Torr), up to 185° C.). The residual dark oil was diluted with toluene (250 ml), and treated with calcium chloride (38.1 g). After stirring for 18 h, the mixture was filtered through Celite™ and concentrated to a dark oil (102 g), which was fractionally distilled to provide decaethylene glycol monomethyl ether as an amber oil (64.4 g, 45%). An analytical sample was obtained via chromatography on silica gel, eluting with 4% methanol in chloroform to provide a colorless oil; 1H-NMR (DMSO-d6) δ: 4.58 (t, J=5.5 Hz, 1, OH), 3.58-3.38 (m, 40, 20 OCH2), 3.24 (s, 3, OCH3).

reactant | Potassium t-butoxide | 39.0 g | CC(C)([O-])C.[K+]
reactant | tetraethylene glycol | 412.7 g | C(COCCOCCOCCO)O | C8H18O5
reactant | methyl hexaethylene glycol chloride | [Cl-].CC(COCCOCCOCCOCCOCCO)O
reactant | hydrochloric acid | 12 N, 11.7 ml | Cl | ClH
product | decaethylene glycol monomethyl ether | 64.4 g, 45% | COCCOCCOCCOCCOCCOCCOCCOCCOCCOCCO | C21H44O11
